### PR TITLE
feat(LocallyNameless/Untyped): generalize `swap_open_fvars`

### PR DESCRIPTION
**Pull request by lengyijun**
Generalize `swap_open_fvars` to `swap_open`
Remove `swap_open_fvars`

### CODE REVIEW

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/Properties.lean [hunk 1]
```diff
@@ -91,6 +86,44 @@ lemma open_lc (k t) (e : Term Var) (e_lc : e.LC) : e = e⟦k ↝ t⟧ := by
...
+                unfold openRec
+              split
+              any_goals tauto
+              apply open_lc
+              assumption
+            · unfold openRec
+              split <;> tauto
+| fvar _ => grind
+| abs _ _ => grind
+| app _ _ _ _ => grind
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/Properties.lean]: This proof is simple enough to just let `grind` infer the case splitting:
```suggestion
  induction m generalizing k n with grind
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/Properties.lean [hunk 2]
```diff
@@ -91,6 +86,44 @@ lemma open_lc (k t) (e : Term Var) (e_lc : e.LC) : e = e⟦k ↝ t⟧ := by
   | abs xs e _ _ => grind [open_lc_aux e 0 (fvar (fresh xs)) (k+1) t]
   | _ => grind
 
+/-- Opening is associative for nonclashing free variables. -/
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/Properties.lean]: Could you update the docstring to indicate that this is now for any locally closed terms we are opening to? The name of this theorem should probably just be `swap_open` now.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/Properties.lean [hunk 3]
```diff
@@ -91,6 +86,44 @@ lemma open_lc (k t) (e : Term Var) (e_lc : e.LC) : e = e⟦k ↝ t⟧ := by
...
+lemma swap_open_fvars (k n : ℕ) (x y m : Term Var) (neq : k ≠ n) (hx : x.LC) (hy : y.LC) :
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/Properties.lean]: These older modules are less consistent, but we typically use `x` and `y` for variables, so this is a bit confusing. Could you maybe use `t₁` and `t₂` instead?

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/Properties.lean (hunk 2 above)
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/Properties.lean]: To answer your above question, the linter is instructing you to write:
```suggestion
omit [DecidableEq Var] in
/-- Opening is associative for nonclashing free variables. -/
```

With this resolved, I would ask that you edit the PR description to indicate the change this PR is making, as this will appear in the commit history.

**Review by chenson2018 — CHANGES_REQUESTED** [review]
Thanks for noticing this! The generalization is good, but some style notes:

**Comment by chenson2018** [comment]
Please also update the title to match our commit conventions.

**Comment by chenson2018** [comment]
This looks good; happy to merge once the description is updated.

**Comment by lengyijun** [comment]
@chenson2018 Ready for review

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/Properties.lean [hunk 4]
```diff
@@ -91,6 +86,13 @@ lemma open_lc (k t) (e : Term Var) (e_lc : e.LC) : e = e⟦k ↝ t⟧ := by
   | abs xs e _ _ => grind [open_lc_aux e 0 (fvar (fresh xs)) (k+1) t]
   | _ => grind
 
+omit [DecidableEq Var] in
+/-- Opening is associative for nonclashing locally closed terms. -/
+lemma swap_open (k n : ℕ) (t₁ t₂ m : Term Var) (neq : k ≠ n) (h1 : t₁.LC) (h2 : t₂.LC) :
+    m⟦n ↝ t₂⟧⟦k ↝ t₁⟧ = m⟦k ↝ t₁⟧⟦n ↝ t₂⟧ := by
+  induction m generalizing k n with grind
+
+
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/Properties.lean]:
```suggestion
```

**Review by chenson2018 — APPROVED** [review]
Thank you!
